US07176216B2
tert-Butyl N-(2-ethylpyrazolo[1,5-a]pyridin-3-yl)-N-tetrahydro-2H-4-pyranylmethylcarbamate
To a solution of tert-butyl N-(2-ethylpyrazolo[1,5-a]pyridin-3-yl)carbamate (12 g, 46 mmol) and potassium tert-butoxide (6.2 g, 55 mmol) dissolved in N,N-dimethylformamide (120 mL) was added tetrahydropyran-4-ylmethyl methanesulfonate (10.7 g, 55 mmol) while cooling with ice, the reaction mixture was stirred for 1 hour, and then tetrahydrofuran (200 mL) was further added and the reaction mixture was additionally stirred for 18 hours. Water (200 mL) and ethyl acetate (500 mL) were then added to the reaction mixture, and the aqueous layer was separated and extracted with ethyl acetate (300 mL). The combined organic extracts were washed with water (300 mL, 3 times) and brine, dried over magnesium sulfate and evaporated under reduced pressure to afford 18 g of the title compound as a yellow oil (>99% yield).

reactant | tert-butyl N-(2-ethylpyrazolo[1,5-a]pyridin-3-yl)carbamate | 46 mmol, 12 g | C(C)C1=NN2C(C=CC=C2)=C1NC(OC(C)(C)C)=O | C14H19N3O2
reactant | potassium tert-butoxide | 55 mmol, 6.2 g | CC(C)([O-])C.[K+]
reactant | tetrahydropyran-4-ylmethyl methanesulfonate | 55 mmol, 10.7 g | CS(=O)(=O)OCC1CCOCC1 | C7H14O4S
reactant | tetrahydrofuran | 200 mL | O1CCCC1 | C4H8O
solvent | N,N-dimethylformamide | 120 mL | CN(C=O)C | C3H7NO
solvent | ethyl acetate | 500 mL | C(C)(=O)OCC | C4H8O2
solvent | Water | 200 mL | O | H2O
product | tert-Butyl N-(2-ethylpyrazolo[1,5-a]pyridin-3-yl)-N-tetrahydro-2H-4-pyranylmethylcarbamate | 18 g, >99% yield | C(C)C1=NN2C(C=CC=C2)=C1N(C(OC(C)(C)C)=O)CC1CCOCC1 | C20H29N3O3
